US09388185B2
N-(5-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)pyridin-2-yl)acetamide
The compound was prepared by using procedures analogous to those described for the synthesis of Example 53, Step 2 starting from 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine and N-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]acetamide (from Combi-Blocks). LCMS calculated for C23H24N5O3(M+H)+: m/z=418.2. Found 418.1.

reactant | 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine | BrC1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1 | C16H16BrN3O2
reactant | N-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]acetamide | CC1(OB(OC1(C)C)C=1C=CC(=NC1)NC(C)=O)C | C13H19BN2O3
product | N-(5-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)pyridin-2-yl)acetamide | COC=1C=C(CCC=2N=C3C(=NC2)NC(=C3)C=3C=CC(=NC3)NC(C)=O)C=C(C1)OC | C23H23N5O3
